US06365736B1
4-Hydroxy-3-nitrobenzaldehyde-ethylenacetal
25 g of 4-hydroxy-3-nitrobenzaldehyde is mixed in toluene with 1.1 equivalents of ethylene glycol and 370 mg of paratoluenesulfonic acid. It is boiled for 4 hours in a water separator. The mixture is poured onto sodium bicarbonate solution, extracted with ethyl acetate, the organic phase is washed with brine, dried with magnesium sulfate and concentrated by evaporation. 23.6 g of crude product, which is suitable for further reactions, results.

reactant | 4-hydroxy-3-nitrobenzaldehyde | 25 g | OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H5NO4
reactant | ethylene glycol | 1.1 equivalents | C(CO)O | C2H6O2
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Hydroxy-3-nitrobenzaldehyde-ethylenacetal | C1COC(C2=CC(=C(C=C2)O)[N+](=O)[O-])O1 | C9H9NO5
